US06911440B2
Trans and Cis 1-(4-tert.-Butylcyclohexylamino)-4-[2-(pyridin-3-yl)ethyl]phthalazine
Under N2-atmosphere, 500 mg (1.85 mmol) 1-chloro-4-[2-(pyridin-3-yl)ethyl]phthalazine and 1.25 g (8 mmol) of 4-tert.-butylcyclohexylamine (trans/cis mixture) are heated at 150° C. for 2.5 h. The reaction mixture is diluted with ethyl acetate, water and conc. NH3-solution (=1 ml), then the aqueous layer is separated off and extracted 2× with ethyl acetate. The organic phases are washed twice with water and brine, dried (Na2SO4) and concentrated. Chromatography (SiO2; ethyl acetate to ethyl acetate/ethanol 10:1) yields the trans isomer followed by the cis isomer of the title compound. trans 1-(4-tert.-Butylcyclohexylamino)-4-[(2-(pyridin-3-yl)ethyl]phthalazine: m.p. 155-157° C.; 1H-NMR (DMSO-d6) 8.50 (s, 1H), 8.38 (d, 1H), 8.35 (d, 1H), 8.06 (d, 1H), 7.83 (m, 2H), 7.74 (d, 1H), 7.30 (m, 1H), 6.89 (d, HN), 4.08 (m, 1H), 3.38 (t, 2H), 3.10 (t, 2H), 2.12 (m, 2H), 1.81 (m, 2H), 1.35 (q, 2H), 1.14 (q, 2H), 1.07 (m, 1H), 0.88 (s, 9H); FAB-MS (M+H)+=389. cis 1-(4-tert.-Butylcyclohexylamino)-4-[(2-(pyridin-3-yl)ethyl]phthalazine: 1H-NMR (DMSO-d6) 8.48 (m, 2H), 8.38 (d, 1H), 8.08 (m, 1H), 7.84 (m, 2H), 7.73 (m, 1H), 7.29 (m, 1H), 6.49 (d, HN), 4.33 (sb, 1H), 3.39 (m, 2H), 3.10 (m, 2H), 2.18 (d, 2H), 1.6-1.4 (m, 6H), 1.06 (m, 1H), 0.87 (s, 9H); FAB-MS (M+H)+-=389.

reactant | 1-chloro-4-[2-(pyridin-3-yl)ethyl]phthalazine | 1.85 mmol, 500 mg | ClC1=NN=C(C2=CC=CC=C12)CCC=1C=NC=CC1 | C15H12ClN3
reactant | 4-tert.-butylcyclohexylamine | 8 mmol, 1.25 g | C(C)(C)(C)C1CCC(CC1)N | C10H21N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | NH3 | 1 ml | N | H3N
product | Cis 1-(4-tert.-Butylcyclohexylamino)-4-[2-(pyridin-3-yl)ethyl]phthalazine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CCC=1C=NC=CC1 | C25H32N4
